US05925755
α-Methyl-2,3-dichlorobenzyl alcohol (5.0 g, 0.026 mol) was dissolved in acetic acid (24 ml) and 12% w/v sodium hypochlorite solution (23.26 ml, 0.0314 mol) was added slowly dropwise, with stirring, at a temperature of 15-25° C. When the addition was complete the reaction mixture was stirred at ambient temperature for approximately 1% hours until a starch/iodide test gave a positive result. Saturated sodium bisulphite solution was added to the reaction mixture until the starch/iodide test was negative. The mixture was poured onto ice/brine (100 ml) and extracted with diethyl ether (3×75 ml). The ether phases were combined and washed with 2N sodium hydroxide solution (3×75 ml) until the aqueous washes were alkaline. The ether phase was dried over anhydrous magnesium sulphate, filtered and evaporated down. 2,3-Dichloroacetophenone (3.2 g, 65% yield) was afforded as a pale-yellow oil. T.l.c. (SiO2 ;CHCl3) and nmr showed this material to contain no impurities.

reactant | α-Methyl-2,3-dichlorobenzyl alcohol | 0.026 mol, 5.0 g | CC(C1=C(C(=CC=C1)Cl)Cl)O | C8H8Cl2O
reactant | sodium hypochlorite | 0.0314 mol, 23.26 ml | Cl[O-].[Na+]
reactant | sodium bisulphite | S([O-])(O)=O.[Na+]
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
product | 2,3-Dichloroacetophenone | 3.2 g, 65% yield | CC(=O)C1=C(C(=CC=C1)Cl)Cl | C8H6Cl2O
